US05442064
1-(4-Cyanophenyl)-4-(methoxycarbonylmethyl)-piperazine
2 g of 1-(4-cyanophenyl)-piperazine are stirred in 20 ml of dry dimethylformamide at ambient temperature with 0.51 g of a 50% sodium hydride/oil suspension. Whilst cooling in a water bath, 1 ml of bromoacetate is added. Then the mixture is diluted with water and extracted with ethyl acetate. The combined ethyl acetate extracts are dried and the solvent is removed under reduced pressure. The residue remaining is chromatographed with methylene chloride/methanol (98:2) over silica gel. The product is triturated with ether, suction filtered and washed with petroleum ether. Yield: 1.6 g (58% of theory), Melting point: 92°-96° C.

reactant | 1-(4-cyanophenyl)-piperazine | 2 g | C(#N)C1=CC=C(C=C1)N1CCNCC1 | C11H13N3
reactant | sodium hydride | [H-].[Na+]
reactant | bromoacetate | 1 ml | BrCC(=O)[O-]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-Cyanophenyl)-4-(methoxycarbonylmethyl)-piperazine | C(#N)C1=CC=C(C=C1)N1CCN(CC1)CC(=O)OC | C14H17N3O2
